US03941785
a. 2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazine
2-Amino-5-methyl-7-propylimidazo[5,1-f]-as-triazin-4(3H)-one, hydrochloride (5 g.) (prepared according to Example 8 of application Ser. No. 300,749 and lithium aluminium hydride (2.9 g.) in tetrahydrofuran were heated under reflux for 78 hours, and cooled. Water (11.6 ml.) was added cautiously followed by aqueous sodium hydroxide (2.9 ml., 15%). The solid was filtered off, the filtrate was evaporated and the residue was triturated with ethyl acetate. The product was crystallised from ethyl acetate and had m.p. 242°-246°.

reactant | 2-Amino-5-methyl-7-propylimidazo[5,1-f]-as-triazin-4(3H)-one, hydrochloride | 5 g | Cl.NC1=NN2C(C(N1)=O)=C(N=C2CCC)C
reactant | lithium aluminium hydride | 2.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 11.6 ml | O | H2O
reactant | sodium hydroxide | 2.9 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Amino-3,4-dihydro-5-methyl-7-propylimidazo[5,1-f]-as-triazine | NC1=NN2C(CN1)=C(N=C2CCC)C | C9H15N5
